US09212190B2
NaH (60% dispersion in mineral oil, 63 mg, 3.00 equiv) was treated with trans-4-(dimethylamino)cyclohexan-1-ol (104 mg, 0.73 mmol, 1.40 equiv) in distilled tetrahydrofuran (8 mL) at room temperature under nitrogen. After stirring for min, (12S)-12-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraene (200 mg, 0.52 mmol, 1.00 equiv) was added and the resulting solution was stirred overnight at room temperature for 8 h. The reaction was then quenched with saturated aqueous NH4Cl and extracted with 3×50 mL of ethyl acetate. The organic layers were combined, washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (4:1) to afford 4-[[(12S)-12-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yl]oxy]-N,N-dimethylcyclohexan-1-amine (110 mg, 43%) as a light yellow solid. MS (ES): m/z 490 (M+H)+.

reactant | NaH | 63 mg, 3.00 equiv | [H-].[Na+]
reactant | trans-4-(dimethylamino)cyclohexan-1-ol | 0.73 mmol, 104 mg, 1.40 equiv | CN([C@@H]1CC[C@H](CC1)O)C | C8H17NO
reactant | (12S)-12-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraene | 0.52 mmol, 200 mg, 1.00 equiv | [Si](C)(C)(C(C)(C)C)OCC[C@H]1CCC=2SC=3N=CN=C(C3C2C1)Cl | C18H27ClN2OSSi
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 4-[[(12S)-12-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yl]oxy]-N,N-dimethylcyclohexan-1-amine | 110 mg, 43% | [Si](C)(C)(C(C)(C)C)OCC[C@H]1CCC=2SC=3N=CN=C(C3C2C1)OC1CCC(CC1)N(C)C | C26H43N3O2SSi
